US06284785B1
(RS)-1-Benzenesulfonyl-2-(3-fluoro-phenyl)-pyrrolidine
The title compound, white solid, m.p. 96° C. and MS: m/e=305 (M+) was prepared in accordance with the general method of example 1e from (RS)-2-(3-fluoro-phenyl)-pyrrolidine and benzenesulfonyl chloride.

reactant | (RS)-2-(3-fluoro-phenyl)-pyrrolidine | FC=1C=C(C=CC1)C1NCCC1 | C10H12FN
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | (RS)-1-Benzenesulfonyl-2-(3-fluoro-phenyl)-pyrrolidine | C1(=CC=CC=C1)S(=O)(=O)N1C(CCC1)C1=CC(=CC=C1)F | C16H16FNO2S
